US05480993
Preparation of 1-[[(4-ethoxycarbonyl-1-methylpyrazole-5-sulfonyl)amino]carbonyl]pyridinium hydroxide
1.08 g (16.6 mmole) of anhydrous sodium cyanate, 1.25 g (15.8 mmole) of dry pyridine and 20.0 g of dry acetonitrile were mixed together and the resulting mixture was then stirred under nitrogen atmosphere while maintaining the temperature of 40° C. To this mixture was added 3.80 g (15.0 mmole) of 4-ethoxycarbonyl-1-methylpyrazole-5-sulfonylchloride over one hour. The reaction mixture was then stirred for further 2 hours while maintaining the temperature of 40° to 45° C. to complete the reaction. After the reaction was completed, the reaction solution was filtered under nitrogen atmosphere. The solvent and the remaining pyridine were removed from the filtrate at normal temperature by means of a vacuum pump to obtain the crude product which was then washed with 10.00 g of dry ethyl ether and dried to obtain 4.68 g (Yieid 92%) of the title compound as the white solid.

reactant | sodium cyanate | 16.6 mmole, 1.08 g | [O-]C#N.[Na+]
reactant | pyridine | 15.8 mmole, 1.25 g | N1=CC=CC=C1 | C5H5N
reactant | 4-ethoxycarbonyl-1-methylpyrazole-5-sulfonylchloride | 15.0 mmole, 3.80 g | C(C)OC(=O)C=1C=NN(C1S(=O)(=O)Cl)C | C7H9ClN2O4S
solvent | acetonitrile | 20.0 g | C(C)#N | C2H3N
product | 1-[[(4-ethoxycarbonyl-1-methylpyrazole-5-sulfonyl)amino]carbonyl]pyridinium hydroxide | [OH-].C(C)OC(=O)C=1C=NN(C1S(=O)(=O)NC(=O)[N+]1=CC=CC=C1)C | InChI=1S/C13H14N4O5S.H2O/c1-3-22-12(18)10-9-14-16(2)11(10)23(20,21)15-13(19)17-7-5-4-6-8-17;/h4-9H,3H2,1-2H3;1H2
